US08003640B2
6-{(3R,4R,5S)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-pyrrolidin-1-ylmethyl-piperidin-3-yloxymethyl}-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine
To a solution of 1 mmol of (3S,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-3-formyl-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester in 5 ml of THF are added 1.2 mmol of pyrrolidine, 1.1 mmol of acetic acid and 1.5 mmol of sodium triacetoxyborohydride. The reaction mixture is stirred for 5 h, and poured on an ice H2O mixture. The mixture is extracted with TBME (3×). The combined organic phases are washed with H2O and brine, dried over sodium sulfate and concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60F) to afford the title compound, which is identified based on the Rf value.

reactant | (3S,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl)-phenyl]-3-formyl-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | 1 mmol | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@@H](C)OCC)C=O | C36H52N2O8
reactant | pyrrolidine | 1.2 mmol | N1CCCC1 | C4H9N
reactant | acetic acid | 1.1 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.5 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-{(3R,4R,5S)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-pyrrolidin-1-ylmethyl-piperidin-3-yloxymethyl}-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@@H]1[C@H](CNC[C@H]1CN1CCCC1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C | C35H53N3O5
